US05929103
(S)-(+)-4-phenyl-1-(indoline-5-sulfonyl)-4,5-dihydro-2-imidazolone (0.72 g, 2.09 mmol) prepared in Preparation 8 was dissolved in 20 m of dichloromethane. Then, pyridine (186 μ, 2.23 mmol) and 4-nitrobenzoyl chloride (413 mg, 2.23 mmol) were added thereto at 0° C. under nitrogen atmosphere one after another. The reaction mixture was stirred at 5° C. for 2 hours and further stirred at room temperature for 3 hours. Then, the reaction mixture was diluted with 20 m of dichloromethane, washed with water, dried over anhydrous magnesium sulfate, concentrated and finally purified by silica gel column chromatography (eluent: ethylacetate/hexane=2/1, v/v) to afford 0.97 g (Yield: 93%) of (S)-(+)-4-phenyl-l-[N-(4-nitrobenzoyl)-indoline-5 -sulfonyl]-4,5-dihydro-2-imidazolone.

reactant | (S)-(+)-4-phenyl-1-(indoline-5-sulfonyl)-4,5-dihydro-2-imidazolone | 2.09 mmol, 0.72 g | C1(=CC=CC=C1)[C@@H]1NC(N(C1)S(=O)(=O)C=1C=C2CCNC2=CC1)=O | C17H17N3O3S
reactant | pyridine | 2.23 mmol | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 2.23 mmol, 413 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-(+)-4-phenyl-l-[N-(4-nitrobenzoyl)-indoline-5 -sulfonyl]-4,5-dihydro-2-imidazolone | 0.97 g, Yield: 93% | C1(=CC=CC=C1)[C@@H]1NC(N(C1)S(=O)(=O)C=1C=C2CCN(C2=CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C24H20N4O6S
